US08871943B2
To a solution of 4,5-dichloro-6-(4-chlorophenyl)picolinoyl chloride (2.0 g, 6.23 mmol) in sulfolane (40 mL, dried over 4 Å molecular sieves, 100 ppm H2O) was added potassium fluoride (2.2 g, 37.4 mmol). The reaction mixture was heated at 130° C. for 24 h. Reaction mixture was analyzed by GC-MS and 19F NMR. Data for 6-(4-chlorophenyl)-4,5-difluoropicolinoyl fluoride, GC-MS: m/z=271, 223; 19F NMR (376 MHz, Toluene-d8) δ 17.05 (s), −123.81 (d, J=19.1 Hz), −140.17 (d, J=19.1 Hz). Reaction was allowed to cool to room temperature and triethylamine (1.1 mL, 7.8 mmol) and isopropanol (0.7 mL, 9.4 mmol) were added. After stirring for 1.5 h, the reaction mixture was diluted with water (100 mL) and transferred to a reparatory funnel. The reaction mixture was extracted with methyl tert-butyl ether (MTBE, 2×50 mL). The combined organic extracts were washed with water (3×50 mL) and saturated NaCl (50 mL) and concentrated under reduced pressure to provide a brown oil. The crude product oil was purified by silica gel flash chromatography (hexane/ethyl acetate gradient, 100% hexane→20% hexane/ethyl acetate) to provide 0.93 g (48% yield) of isopropyl 6-(4-chlorophenyl)-4,5-difluoropicolinate as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.04-7.98 (m, 2H), 7.90 (dd, J=9.4, 5.3 Hz, 1H), 7.51-7.45 (m, 2H), 5.31 (hept, J=6.3 Hz, 1H), 1.43 (d, J=6.3 Hz, 6H); 13C NMR (101 MHz, CDCl3) δ 162.72 (d, J=3.5 Hz), 158.12 (d, J=12.6 Hz), 155.49 (d, J=12.4 Hz), 149.41 (d, J=11.0 Hz), 147.16 (dd, J=7.9, 1.0 Hz), 146.73 (d, J=10.9 Hz), 136.51 (d, J=0.9 Hz), 130.34 (d, J=6.6 Hz), 128.93 (s), 113.80 (d, J=16.1 Hz), 70.25 (s), 21.85 (s); 19F NMR (376 MHz, CDCl3) δ −124.73 (dd, J=17.7, 9.5 Hz), −144.38 (dd, J=17.7, 5.4 Hz); MS Calcd. for C16H15F2NO3: 307.10. Found: 307 (M+), 221, 206; mp=73-74° C.

reactant | 4,5-dichloro-6-(4-chlorophenyl)picolinoyl chloride | 6.23 mmol, 2.0 g | ClC1=CC(=NC(=C1Cl)C1=CC=C(C=C1)Cl)C(=O)Cl | C12H5Cl4NO
reactant | potassium fluoride | 37.4 mmol, 2.2 g | [F-].[K+]
reactant | 6-(4-chlorophenyl)-4,5-difluoropicolinoyl fluoride | ClC1=CC=C(C=C1)C1=C(C(=CC(=N1)C(=O)F)F)F | C12H5ClF3NO
reactant | triethylamine | 7.8 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | isopropanol | 9.4 mmol, 0.7 mL | C(C)(C)O | C3H8O
solvent | sulfolane | 40 mL | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | water | 100 mL | O | H2O
product | isopropyl 6-(4-chlorophenyl)-4,5-difluoropicolinate | 0.93 g, 48% yield | ClC1=CC=C(C=C1)C1=C(C(=CC(=N1)C(=O)OC(C)C)F)F | C15H12ClF2NO2
